US04202873
According to the procedure described by F. Weygand and R. Geiger (Chem. Ber. 89, 647/1956), N-trifluoroacetyltyrosine was prepared by the reaction of tyrosine with trifluoroacetic anhydride in a mixture of trifluoroacetic acid and diethyl ether.

reactant | tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-trifluoroacetyltyrosine | FC(C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)(F)F | C11H10F3NO4
